US04076843
E. trans-1,2,3,4-Tetrahydro-3-[(1-methylethyl)amino]5,8-dimethoxy-2-naphthalenol
A mixture of 10.3 g of 6,7-epoxy-5,6,7,8-tetrahydro-1,4-dimethoxynaphthalene in 50 ml of isopropylamine containing 2.93 ml of absolute ethanol is heated overnight in a small Parr bomb at 105° C ± 5° C (internal pressure = 75-100 psi). The cooled reaction mixture is concentrated in vacuo to 11.51 g of tan solid. Trituration with ether gives 10.1 g of material, melting point 141-144° C. Two recrystallizations from ethyl acetate give 7.0 g of trans-1,2,3,4-tetrahydro-3-[(1-methylethyl)amino]-5,8-dimethoxy-2-dimethoxy-2-naphthalenol, melting point 144°-145° C.

reactant | 6,7-epoxy-5,6,7,8-tetrahydro-1,4-dimethoxynaphthalene | 10.3 g | O1C2CC=3C(=CC=C(C3CC21)OC)OC | C12H14O3
reactant | ethanol | C(C)O | C2H6O
reactant | isopropylamine | 50 ml | C(C)(C)N | C3H9N
product | trans-1,2,3,4-Tetrahydro-3-[(1-methylethyl)amino]5,8-dimethoxy-2-naphthalenol | 10.1 g | CC(C)N[C@H]1[C@@H](CC2=C(C=CC(=C2C1)OC)OC)O | C15H23NO3
